US09034900B2
Step 2: N-[4-(2,4-difluorophenoxy)-3-(1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide
To a solution of 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-1-methylpyridin-2-one (30 mg, 0.09 mmol) in DCM (4 mL) was added TEA (27.3 mg, 0.27 mmol) and EtSO2Cl (35.39 mg, 0.27 mmol). The mixture was stirred at 30° C. for 12 h. Water (4 mL) was added and the mixture was extracted with DCM (4 mL×3). The organic layer was concentrated and the residue was purified by prep-HPLC to give the title compound (10 mg, 26%) as light yellow gum. 1H NMR (CDCl3, 400 MHz) δ7.68-7.66 (m, 2H), 7.28 (d, J=2.4 Hz, 1H), 7.13-7.10 (m, 1H), 7.09 (s, 1H), 7.00-6.92 (m, 2H), 6.84-6.86 (m, 1H), 6.78 (d, J=8.4 Hz, 1H), 6.73 (d, J=9.2 Hz, 1H), 3.65 (s, 3H), 3.14 (q, J=7.2 Hz, 2H), 1.41 (t, J=7.2 Hz, 3H). LCMS (M+H)+ 421.

reactant | 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-1-methylpyridin-2-one | 0.09 mmol, 30 mg | NC=1C=CC(=C(C1)C=1C=CC(N(C1)C)=O)OC1=C(C=C(C=C1)F)F | C18H14F2N2O2
reactant | EtSO2Cl | 0.27 mmol, 35.39 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | Water | 4 mL | O | H2O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(2,4-difluorophenoxy)-3-(1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide | 10 mg, 26% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C=C2)=O)C)C=CC(=C1)F | C20H18F2N2O4S
